US06288096B1
5-([4-[2-(4-Trifluoromethanesulfonyloxyphenyl)ethoxy]phenyl]methyl)thiazolidine-2,4-dione
2 g (4.22 mmole) 5-(4-[2-(4-trifluoromethanesulfonyloxyphenyl)ethoxy]benzylidene)thiazolidine-2,4-dione and 2.14 g (8.44 mmole) diethyl-1,4-dihydro-2,6-dimethyl-3.5-pyridine dicarboxylate were mixed and heated to 180° C. under vacuum when it melted, the temperature raised to 230° C. and after 30 minutes the heat was removed. Purification by chromatography on silica gel with heptane/ethyl acetate as eluent gave 0.768 g (yield 38%) of the desired product.

reactant | 5-(4-[2-(4-trifluoromethanesulfonyloxyphenyl)ethoxy]benzylidene)thiazolidine-2,4-dione | 4.22 mmole, 2 g | FC(S(=O)(=O)OC1=CC=C(C=C1)CCOC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1)(F)F | C19H14F3NO6S2
reactant | diethyl-1,4-dihydro-2,6-dimethyl-3.5-pyridine dicarboxylate | 8.44 mmole, 2.14 g | C(C)OC(=O)C1=C(NC(=C(C1)C(=O)OCC)C)C | C13H19NO4
product | 5-([4-[2-(4-Trifluoromethanesulfonyloxyphenyl)ethoxy]phenyl]methyl)thiazolidine-2,4-dione | 0.768 g, yield 38% | FC(S(=O)(=O)OC1=CC=C(C=C1)CCOC1=CC=C(C=C1)CC1C(NC(S1)=O)=O)(F)F | C19H16F3NO6S2
